US09447044B2
Step A: 2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropane carboxylic acid
After LiOH (6.4 mg, 0.152 mmol) was dissolved in water (1 mL), H2O2 (35%, 37 mg, 0.38 mmol) was added thereto, and the mixture was stirred at room temperature for 30 minutes, and then cooled to 0° C. The reactant was added to the solution of (R)-4-benzyl-3-[2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropanecarbonyl]-oxazolidin-2-on (less polar, 44 mg, 0.095 mmol) obtained in Step B of Preparation Example 58 dissolved in THF/H2O (2 mL/0.5 mL), and the mixture was stirred for 1 hour. After the termination of the reaction, Na2SO3 solution (0.1 g in 1 mL of H2O) was added thereto, and the mixture was stirred at 0° C. for 1 hour, and then concentrated under reduced pressure. The residue was added with water, and 6N HCl aqueous solution was added to adjust the pH of the solution to 2. The organic layer obtained by the extraction with ethyl acetate was separated, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain the mixture (41 mg) of the title compound and 4-benzyloxazolidin-2-on, which was used in the next step without a separate purification process.

reactant | LiOH | 0.152 mmol, 6.4 mg | [Li+].[OH-]
reactant | H2O2 | 0.38 mmol, 37 mg | OO | H2O2
reactant | (R)-4-benzyl-3-[2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropanecarbonyl]-oxazolidin-2-on | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(=O)C1C(C1)C1=CC(=C(C(=C1)F)OCC1=CC=CC=C1)F | C27H23F2NO4
reactant | Na2SO3 | 1 mL, 0.1 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | THF H2O | 2 mL | C1CCOC1.O
solvent | water | 1 mL | O | H2O
product | 2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropane carboxylic acid | 41 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)C1C(C1)C(=O)O)F | C17H14F2O3
